US07504508B2
To a solution of 2-{(4-chlorophenyl)[(2S,4R)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}-2-oxoethyl acetate (170 mg, 0.45 mmol, 1 equ.) in methylene chloride (2.0 mL) at room temperature was added diisopropylethylamine (127 uL, 0.73 mmol, 1.60 equ.) followed by methyl 5-[4-(chlorocarbonyl)phenyl]-2,2-dimethylpentanoate (196 mg, 0.73 mmol, 1.60 equ.). The reaction was stirred over night at room temperature. The mixture was concentrated, then poured into water and extracted with ethyl acetate. The extracts were washed with brine, dried over magnesium sulfate, filtered dried and concentrated. The crude residue was purified by silica gel chromatography (ethyl acetate/hexane 25/75 to 1:1 gradient) to afford the pure methyl 5-(4-{[(2S,4R)-4-[[(acetyloxy)acetyl](4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)-2,2-dimethylpentanoate (110 mg, 40%).

reactant | 2-{(4-chlorophenyl)[(2S,4R)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}-2-oxoethyl acetate | 0.45 mmol, 170 mg | C(C)(=O)OCC(=O)N([C@@H]1C[C@@H](NC2=CC=CC=C12)C)C1=CC=C(C=C1)Cl | C20H21ClN2O3
reactant | diisopropylethylamine | 0.73 mmol, 127 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl 5-[4-(chlorocarbonyl)phenyl]-2,2-dimethylpentanoate | 0.73 mmol, 196 mg | ClC(=O)C1=CC=C(C=C1)CCCC(C(=O)OC)(C)C | C15H19ClO3
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-(4-{[(2S,4R)-4-[[(acetyloxy)acetyl](4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)-2,2-dimethylpentanoate | 110 mg, 40% | C(C)(=O)OCC(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)CCCC(C(=O)OC)(C)C)C)C1=CC=C(C=C1)Cl | C35H39ClN2O6
